US07462624B2
Step B: 7-Allyl-6-chloro-3-pentyl-3,7-dihydro-2H-purin-2-one
A mixture of 7-allyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione (0.80 g, 3.0 mmol) and phosphoryl chloride (10.0 mL, 100 mmol) was refluxed for 2 h. The excess phosphoryl chloride was removed by vacuum distillation. The residue was diluted with ice-water, neutralized with solid K2CO3, and then extracted with DCM three times. The combined organic layers were dried, filtered and concentrated to provide the crude product (0.60 g), which was used for next step without further purification. LCMS calculated for C13H18ClN4O (M+H): 281.1; found: 281.1.

reactant | 7-allyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | 3.0 mmol, 0.80 g | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)CCCCC | C13H18N4O2
reactant | phosphoryl chloride | 100 mmol, 10.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Allyl-6-chloro-3-pentyl-3,7-dihydro-2H-purin-2-one | 0.60 g | C(C=C)N1C=NC=2N(C(N=C(C12)Cl)=O)CCCCC | C13H17ClN4O
